US07553973B2
Step 8: 4-(4-Fluorophenyl)-6-methyl-2-oxo-2H-chromene-7-carbaldehyde
4-(4-Fluorophenyl)-7-(hydroxymethyl)-6-methyl-2H-chromen-2-one (0.487 g, 1.71 mmol) in CH2Cl2 (350 mL) was stirred with activated MnO2 (2.23 g, 25.7 mmol) for 65 h at rt. The reaction mixture was filtered through a pad of celite and the filtrate was concentrated to afford the title compound. 1H NMR (500 MHz, acetone-d6): δ 10.40 (s, 1H), 7.86 (s, 1H), 7.70 (m, 2H), 7.46 (s, 1H), 7.42 (m, 2H), 6.53 (s, 1H), 2.66 (s, 3H).

reactant | 4-(4-Fluorophenyl)-7-(hydroxymethyl)-6-methyl-2H-chromen-2-one | 1.71 mmol, 0.487 g | FC1=CC=C(C=C1)C1=CC(OC2=CC(=C(C=C12)C)CO)=O | C17H13FO3
solvent | CH2Cl2 | 350 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 25.7 mmol, 2.23 g | O=[Mn]=O
product | 4-(4-Fluorophenyl)-6-methyl-2-oxo-2H-chromene-7-carbaldehyde | FC1=CC=C(C=C1)C1=CC(OC2=CC(=C(C=C12)C)C=O)=O | C17H11FO3
